US04491466
1-butyryl-3-phenyl-1-(1,2,3-thiadiazole-5-yl)-urea
13.2 g (0.077 mole) butyric acid-N-(1,2,3-thiadiazole-5-yl)-amide were dissolved in 150 ml absolute tetrahydrofuran and reacted with 3.36 g (0.077 mole) of a 55% dispersion of sodium hydride in oil, whereby during the addition the reaction solution through cooling is maintained at 30° C. After about 30 minutes of stirring at room temperature, the evolution of hydrogen is completed. 8.3 ml (0.077 mole) phenylisocyanate is added dropwise within about 5 minutes during which time the reaction temperature increases to 36° C. The reaction mixture is then stirred at room temperature for 1.5 hours whereby a thick crystaline slurry is formed. The reaction mixture is then introduced into a solution of 12.3 ml (0.154 mole) concentrated hydrochloric acid in 300 ml of water. Thereafter the reaction mixture is extracted with 250 ml acetic ester, the organic phase washed with water, dried over magnesium sulfate, filtered and concentrated in vacuum. There were thusly obtained colorless crystals which were digested with 50 ml diisopropylether.

reactant | butyric acid-N-(1,2,3-thiadiazole-5-yl)-amide | 0.077 mole, 13.2 g | S1N=NC=C1NC(CCC)=O | C6H9N3OS
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | phenylisocyanate | 0.077 mole, 8.3 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | hydrochloric acid | 0.154 mole, 12.3 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 1-butyryl-3-phenyl-1-(1,2,3-thiadiazole-5-yl)-urea | C(CCC)(=O)N(C(=O)NC1=CC=CC=C1)C1=CN=NS1 | C13H14N4O2S
